US09399623B2
6-Chloro-2-(3,3-difluoro-pyrrolidin-1-yl)-quinoline-5-carboxylic acid ((1S,3S)-1-hydroxy-3-methyl-cyclohexylmethyl)-amide (86)
The title compound was synthesized according to the procedure described in example 1 using 2,6-Dichloro-quinoline-5-carboxylic acid ((1S,3S)-1-hydroxy-3-methyl-cyclohexylmethyl)-amide, DIPEA and 3,3-difluoropyrrolidine. 1H NMR (400 MHz, DMSO-d6): δ 8.54 (t, J=6.01 Hz, 1H), 7.89 (d, J=9.32 Hz, 1H), 7.54-7.61 (m, 2H), 7.04 (d, J=9.21 Hz, 1H), 4.16 (s, 1H), 3.96-4.03 (m, 2H), 3.45 (t, J=5.00 Hz, 2H), 3.27-3.28 (m, 2H), 2.56-2.59 (m, 3H), 1.73-1.75 (m, 1H), 1.52-1.61 (m, 4H), 1.46-1.47 (m, 1H), 1.34-1.38 (m, 1H), 1.18-1.19 (m, 1H), 0.84-0.87 (m, 4H). m/z: 438.2 [M+H]+

reactant | 2,6-Dichloro-quinoline-5-carboxylic acid ((1S,3S)-1-hydroxy-3-methyl-cyclohexylmethyl)-amide | O[C@@]1(C[C@H](CCC1)C)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl | C18H20Cl2N2O2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | 3,3-difluoropyrrolidine | FC1(CNCC1)F | C4H7F2N
product | 6-Chloro-2-(3,3-difluoro-pyrrolidin-1-yl)-quinoline-5-carboxylic acid ((1S,3S)-1-hydroxy-3-methyl-cyclohexylmethyl)-amide | O[C@@]1(C[C@H](CCC1)C)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1CC(CC1)(F)F | C22H26ClF2N3O2
